US05889002
c) 5-Chloro-2-sulfamoyl-3-thenoyl azide
A solution of sodium nitrite (3.0 g; 43.4 mmol) in 20 ml of water was added dropwise with stirring at 0° C. to a solution of 5-chloro-2-sulfamoylthiophene-3-carbohydrazide (10.0 g; 39.1 mmol) in 80 ml of 1M hydrochloric acid and the mixture was stirred for 15 min. The precipitate was isolated by filtration, washed with water and dried to give 9.93 g (96%) of the title compound; 1H-NMR (DMSO-d6): δ 7.55 (s, 1H), 7.97 (br. s, 2H, NH2).

reactant | sodium nitrite | 43.4 mmol, 3.0 g | N(=O)[O-].[Na+]
reactant | 5-chloro-2-sulfamoylthiophene-3-carbohydrazide | 39.1 mmol, 10.0 g | ClC1=CC(=C(S1)S(N)(=O)=O)C(=O)NN | C5H6ClN3O3S2
solvent | water | 20 ml | O | H2O
solvent | hydrochloric acid | 1M, 80 ml | Cl | ClH
product | 5-Chloro-2-sulfamoyl-3-thenoyl azide | 9.93 g, 96% | ClC1=CC(=C(S1)S(N)(=O)=O)C(=O)N=[N+]=[N-] | C5H3ClN4O3S2
